US08076336B2
3-Amino-5-pentafluorosulfanylbenzoic acid
Subsequently, the 3-pentafluorosulfanyl-5-nitrobenzoic acid (5 g) was dissolved in methanol (300 ml), Raney nickel (about 750 mg) was added and hydrogenation was effected under a hydrogen atmosphere (hydrogen balloon). After 3 h, the catalyst was filtered off and the filter residue was washed thoroughly with methanol. The filtrate was concentrated and dried. The residue was purified using silica gel (2×50 g cartridge, n-heptane/EA gradient of 0-100% within 60 min). 3.9 g of the title compound were obtained.

reactant | 3-pentafluorosulfanyl-5-nitrobenzoic acid | 5 g | FS(C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-])(F)(F)(F)F | C7H4F5NO4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | Raney nickel | about 750 mg | [Ni] | Ni
product | 3-Amino-5-pentafluorosulfanylbenzoic acid | 3.9 g | NC=1C=C(C(=O)O)C=C(C1)S(F)(F)(F)(F)F | C7H6F5NO2S
